US04960779
Lithium chloride (4.2 g) and water (1.8 cc) are added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of methyl 2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-3-oxo-4-phenylbutanoate (3 g) in dimethyl sulphoxide (230 cc), and the reaction mixture is heated to reflux for 45 minute$. After the mixture is cooled to a temperature in the region of 40° C., ice-cold water (1500 cc) is added. After 15 minutes.varies. stirring, the solid which precipitates is separated by filtration, washed with distilled water (5×25 cc) and dried in the air. The solid obtained is purified by chromatography on silica gel (140 g) contained in a column 3.4 cm in diameter (eluent: dichloromethane/methanol (98:2 by volume)]. Elution is first performed with 200 cc of solvent: the corresponding eluate is discarded. Elution is then performed with 900 cc of solvent: the corresponding eluate is concentrated to dryness under reduced pressure (2.7 kPa), at 40° C. After recrystallization in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(3-phenyl-2-oxopropyl)-1-isoindolinone (1.2 g), m.p. 182° C., is obtained.

reactant | Lithium chloride | 4.2 g | [Cl-].[Li+]
reactant | water | 1.8 cc | O | H2O
reactant | methyl 2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-3-oxo-4-phenylbutanoate | 3 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)C(C(=O)OC)C(CC1=CC=CC=C1)=O | C27H20ClN3O4
solvent | dimethyl sulphoxide | 230 cc | CS(=O)C | C2H6OS
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(3-phenyl-2-oxopropyl)-1-isoindolinone | 1.2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CC1=CC=CC=C1)=O)=O | C25H18ClN3O2
